US04822787
A mixture of (2S,4R)-4-t-butyldimethylsilyloxy-2-hydroxymethyl-1-(4-nitrobenzyloxycarbonyl)pyrrolidine (10.0 g), methanol (100 ml) and 10% palladium on carbon (1.0 g), was stirred in a nitrogen stream at ambient temperature for 3 hours. The catalyst was filtered off and the filtrate was concentrated under reduced pressure to give (2S,4R)-4-t-butyldimethylsilyloxy-2-hydroxymethylpyrrolidine. To a solution of the compound obtained above in tetrahydrofuran (100 ml) was added di-t-butyl dicarbonate (5.60 g) and the mixture was refluxed for 30 minutes. The reaction mixture was concentrated under reduced pressure to give a syrup. The syrup was subjected to a column chromatography on silica gel (160 g) and eluted with chloroform to give (2S,4R)-1-t-butoxycarbonyl-4-t- butyldimethylsilyloxy-2-hydroxymethylpyrrolidine (7.97 g).

reactant | (2S,4R)-4-t-butyldimethylsilyloxy-2-hydroxymethyl-1-(4-nitrobenzyloxycarbonyl)pyrrolidine | 10.0 g | [Si](C)(C)(C(C)(C)C)O[C@@H]1C[C@H](N(C1)C(=O)OCC1=CC=C(C=C1)[N+](=O)[O-])CO | C19H30N2O6Si
catalyst | palladium on carbon | 1.0 g | [Pd] | Pd
solvent | methanol | 100 ml | CO | CH4O
product | (2S,4R)-4-t-butyldimethylsilyloxy-2-hydroxymethylpyrrolidine | [Si](C)(C)(C(C)(C)C)O[C@@H]1C[C@H](NC1)CO | C11H25NO2Si
